US08426447B2
A vial charged with (S)-2′-amino-3-bromo-5′H-spiro[chromeno[2,3-b]pyridine-5,4′-oxazol]-7-ol (0.250 g, 0.718 mmol), Pd(PPh3)4 (0.083 g, 0.072 mmol), and copper(i) iodide (0.014 g, 0.072 mmol), was treated with 1 mL THF followed by diisopropylamine (1.535 mL, 10.77 mmol). The solution was degassed with argon and 3,3-dimethylbut-1-yne (0.295 g, 3.59 mmol) was added and the vial heated to 80° C. overnight. The reaction mixture was purified directly by column chromatography yielding (S)-2′-amino-3-(3,3-dimethylbut-1-ynyl)-5′H-spiro[chromeno[2,3-b]pyridine-5,4′-oxazol]-7-ol.

reactant | (S)-2′-amino-3-bromo-5′H-spiro[chromeno[2,3-b]pyridine-5,4′-oxazol]-7-ol | 0.718 mmol, 0.250 g | NC=1OC[C@]2(N1)C1=CC(=CC=C1OC1=NC=C(C=C12)Br)O | C14H10BrN3O3
reactant | diisopropylamine | 10.77 mmol, 1.535 mL | C(C)(C)NC(C)C | C6H15N
reactant | 3,3-dimethylbut-1-yne | 3.59 mmol, 0.295 g | CC(C#C)(C)C | C6H10
catalyst | Pd(PPh3)4 | 0.072 mmol, 0.083 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
catalyst | copper(i) iodide | 0.072 mmol, 0.014 g | [Cu]I
solvent | THF | 1 mL | C1CCOC1 | C4H8O
product | (S)-2′-amino-3-(3,3-dimethylbut-1-ynyl)-5′H-spiro[chromeno[2,3-b]pyridine-5,4′-oxazol]-7-ol | NC=1OC[C@]2(N1)C1=CC(=CC=C1OC1=NC=C(C=C12)C#CC(C)(C)C)O | C20H19N3O3
